US05281614
Step C: Methyl N-[[2'-(t-Butoxycarbonyl)biphenyl-4-yl]methyl]dithiocarbamate
A solution of 1.415 g (5 mmole) of 4-aminomethyl-2'-(t-butoxycarbonyl)biphenyl and 751 μl (545 mg, 5.4 mmole) of triethylamine in 5 ml of methanol was stirred under N2 at room temperature as a solution of 342 μl (434 mg, 5.7 mmole) of carbon disulfide in 2 ml of methanol was added dropwise over about 10 minutes. After 2.5 hours the solution was cooled in an ice-methanol bath, and a solution of 311 μl (710 mg, 5 mmole) of methyl iodide in 2 ml of methanol was added dropwise over about 10 minutes. The cooling bath was removed, and the solution was allowed to warm to room temperature. After 2 hours the solution was concentrated at 25° C. The residue was partitioned between 50 ml of ether plus 10 ml of CH2Cl2 and 50 ml of 0.2N HCl. The organic phase was washed with 25 ml of saturated NaCl solution (aqueous), dried over MgSO4, filtered, and concentrated. Crystallization of the residual oil from ether yielded 1.57 g (84%) of nearly colorless crystals, mp 127.5°-128.5° C., satisfactory purity by TLC in 4:1 hexane-EtOAc; mass spectrum (FAB) m/e 374 (M+1)+.

reactant | 4-aminomethyl-2'-(t-butoxycarbonyl)biphenyl | 5 mmole, 1.415 g | NCC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC(C)(C)C | C18H21NO2
reactant | triethylamine | 5.4 mmole, 751 μl, 545 mg | C(C)N(CC)CC | C6H15N
reactant | carbon disulfide | 5.7 mmole, 342 μl, 434 mg | C(=S)=S | CS2
reactant | methyl iodide | 5 mmole, 311 μl, 710 mg | CI | CH3I
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 2 ml | CO | CH4O
solvent | methanol | 2 ml | CO | CH4O
product | Methyl N-[[2'-(t-Butoxycarbonyl)biphenyl-4-yl]methyl]dithiocarbamate | C(C)(C)(C)OC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CNC(SC)=S | C20H23NO2S2
